US04968717
5-[(Phenethyl)-methylamino]-2-(3-methoxyphenyl)-2-isopropylvaleronitrile
13.5 g (0.1 mole) of 3-methoxyphenylacetonitrile were dissolved in 15 ml of toluene, and 52 g (0.8 mole) of 85% strength potassium hydroxide powder and 0.2 g of tris(3,6-dioxaheptyl)-amine were added. Thereafter, 12.3 g (0.1 mole) of isopropyl bromide were added dropwise to the stirred mixture at a rate such that the reaction temperature did not exceed 50° C. When the addition was complete, stirring was continued for 2 hours at 50° C., after which a solution of 21.2 g (0.1 mole) of N-(3-chloropropyl)-N-methylphenethylamine in 20 ml of toluene was added at 90° C. The reaction mixture was stirred for a further 3 hours at 90° C. and cooled, after which 100 ml of water were added and the toluene phase was separated off. The toluene was distilled off to give a yellow oil, which was chromatographed over a silica gel column using a solvent mixture consisting of 9:1:0.5 methylene chloride/acetone/ methanol. The chromatographically pure base was dissolved in ethyl acetate, and the hydrochloride was precipitated with ethanolic hydrochloric acid. 26.1 g (65%) of a product of melting point 154°-156° C. were obtained.

reactant | 3-methoxyphenylacetonitrile | 0.1 mole, 13.5 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | isopropyl bromide | 0.1 mole, 12.3 g | C(C)(C)Br | C3H7Br
reactant | N-(3-chloropropyl)-N-methylphenethylamine | 0.1 mole, 21.2 g | ClCCCN(C)CCC1=CC=CC=C1 | C12H18ClN
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(3,6-dioxaheptyl)-amine | 0.2 g | C(COCCOC)N(CCOCCOC)CCOCCOC | C15H33NO6
solvent | water | 100 ml | O | H2O
product | 5-[(Phenethyl)-methylamino]-2-(3-methoxyphenyl)-2-isopropylvaleronitrile | 26.1 g, 65% | C(CC1=CC=CC=C1)N(CCCC(C#N)(C(C)C)C1=CC(=CC=C1)OC)C | C24H32N2O
